US09193724B2
n-Butyllithium (46 mL, 0.0738 mol, 1.6 M) was added to a solution of diisopropylamine (10.08 mL, 0.0738 mol) in tetrahydrofuran (80 mL) at −78° C. The reaction mixture was warmed to 0° C., stirred for 30 min, and then cooled to −78° C. 3-Bromo-5-fluoro-pyridine (10.0 g, 0.056 mol) in tetrahydrofuran (10 mL) was added to the reaction mixture and the reaction mixture was stirred for 30 min. Methyl iodide (4 mL, 0.062 mol) was added to the reaction mixture at same temperature and the reaction mixture was then allowed to warm to RT and stirred it for 2 h. The reaction mixture was quenched with a saturated aqueous ammonium chloride solution (150 mL) solution. Then aqueous layer was extracted with ethyl acetate (3×150 mL). The combined organic extracts were washed with a saturated aqueous sodium chloride solution (1×100 mL), dried over sodium sulphate and concentrated to afford 3-bromo-5-fluoro-4-methyl pyridine. 1H NMR (400 MHz, CDCl3) δ 8.49 (s, 1H), 8.31 (s, 1H), 2.38 (s, 3H). MS (M+2): 192.0.

reactant | n-Butyllithium | 0.0738 mol, 1.6 M, 46 mL | C(CCC)[Li]
reactant | diisopropylamine | 0.0738 mol, 10.08 mL | C(C)(C)NC(C)C | C6H15N
reactant | 3-Bromo-5-fluoro-pyridine | 0.056 mol, 10.0 g | BrC=1C=NC=C(C1)F | C5H3BrFN
reactant | Methyl iodide | 0.062 mol, 4 mL | CI | CH3I
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 3-bromo-5-fluoro-4-methyl pyridine | BrC=1C=NC=C(C1C)F | C6H5BrFN
